US06476268B1
Batchwise Synthesis of N-benzyl-1-naphthylethylamine
100 ml of methanol and 350 mmol of 1-naphthylethylamine are initially taken and 350 mmol of benzaldehyde are added dropwise at 24° C. in the course of 15 minutes. Stirring is effected for 6 hours at 24° C., the completeness of the iminization is checked by GC, 0.5 g of Pd/C (10% by weight) is added and the crude mixture is hydrogenated with hydrogen for 5 hours at atmospheric pressure. A sample is taken and the composition is investigated by GC analysis.

reactant | 1-naphthylethylamine | 350 mmol | C1(=CC=CC2=CC=CC=C12)CCN | C12H13N
reactant | benzaldehyde | 350 mmol | C(C1=CC=CC=C1)=O | C7H6O
reactant | hydrogen | [H][H] | H2
catalyst | Pd/C | 0.5 g | [Pd] | Pd
solvent | methanol | 100 ml | CO | CH4O
product | N-benzyl-1-naphthylethylamine | C(C1=CC=CC=C1)NCCC1=CC=CC2=CC=CC=C12 | C19H19N
